US06353025B1
A solution of ethyl N-[2-chloro-4-[2-((RS)-tetrahydro-pyran-2-yloxy)ethyl]phenyl]-N-trifluoroacetylaminoacetate (830 mg) and p-toluenesulfonic acid monohydrate (80 mg) in ethanol (9.0 ml) was stirred for 2 hours at 40° C. To the reaction mixture was added potassium carbonate (314 mg), and the resulting mixture was heated under reflux for 5 hours with stirring. The insoluble material was filtered off, the filtrate was concentrated in vacuo, and the residue was dissolved in ethyl acetate. The solution was washed with a saturated aqueous sodium bicarbonate solution and brine, and dried over anhydrous magnesium sulfate, and the solvent was removed in vacuo. Purification of the residue by medium pressure liquid column chromatography on silica gel (eluent: hexane/ethyl acetate=2/1) gave ethyl N-[2-chloro-4-(2-hydroxyethyl)phenyl]aminoacetate (315 mg).

reactant | ethyl N-[2-chloro-4-[2-((RS)-tetrahydro-pyran-2-yloxy)ethyl]phenyl]-N-trifluoroacetylaminoacetate | 830 mg | ClC1=C(C=CC(=C1)CCOC1OCCCC1)N(C(C(F)(F)F)=O)CC(=O)OCC | C19H23ClF3NO5
reactant | p-toluenesulfonic acid monohydrate | 80 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | potassium carbonate | 314 mg | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 9.0 ml | C(C)O | C2H6O
product | ethyl N-[2-chloro-4-(2-hydroxyethyl)phenyl]aminoacetate | 315 mg | ClC1=C(C=CC(=C1)CCO)NCC(=O)OCC | C12H16ClNO3
